US07812183B2
and 4-[1-(4-Chloro-phenyl)-1H-pyrazol-3-yloxy]-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile (Compound #55)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 1-(4-chloro-phenyl)-1,2-dihydro-pyrazol-3-one as starting materials, the title compounds were prepared as white solids.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 1-(4-chloro-phenyl)-1,2-dihydro-pyrazol-3-one | ClC1=CC=C(C=C1)N1NC(C=C1)=O | C9H7ClN2O
product | 4-[1-(4-Chloro-phenyl)-1H-pyrazol-3-yloxy]-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | ClC1=CC=C(C=C1)N1N=C(C=C1)OC1C(C(OC2=CC=C(C=C12)C#N)(C)C)O | C21H18ClN3O3
